* C:\Users\asiclawl\Desktop\SDIM\ltspice.asc
V1 N001 0 PULSE(0 12 1 0 0 1.5 3 10)
XU1 0 N003 N005 N001 N006 N003 NC_01 N001 NE555
C1 N003 0 50µ V=16 Irms=135m Rser=0.8 Lser=0
R1 N001 N003 3000
D1 N002 N001 1N4148
M1 N007 N004 N001 N001 IRF7404
R3 N002 N003 1000
R4 N004 N005 1000
C2 N006 0 0.01µ V=50 Irms=270m Rser=0.379979 Lser=0 mfg="KEMET" pn="C1206C103K5RAC" type="X7R"
R2 N007 0 100
R5 N001 N004 50000
.model D D
.lib C:\Users\asiclawl\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\asiclawl\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 10
.lib NE555.sub
.backanno
.end
